US08049013B2
5-[4-(1-Acetyl-azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one (75 mg, 0.171 mmol) and triethylamine (52.5 μL, 0.376 mmol) in dry CH2Cl2 (700 μL). Chill to 0° C. and add acetylchloride (13.4 μL, 0.188 mmol). Allow to warm to room temperature overnight. Add 1 N HCl solution and extract with CH2Cl2 (3×5 mL). Combine the organic portions and wash with water (2×5 mL). Dry the organic layer with Na2SO4, filter, and concentrate in vacuo. Purify the resulting residue on HPLC with 5 μm 30×75 mm XBridge C18 column; eluent: 34% water (with 10 mM NH4HCO3 added to pH=10/acetonitrile (isocratic) to give 39 mg, (48%). ES/MS m/z (35Cl) 481.8 [M+1]+.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 0.171 mmol, 75 mg | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H18ClN3O3S
reactant | triethylamine | 0.376 mmol, 52.5 μL | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 0.188 mmol, 13.4 μL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1 N | Cl | ClH
solvent | CH2Cl2 | 700 μL | C(Cl)Cl | CH2Cl2
product | 5-[4-(1-Acetyl-azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | C(C)(=O)N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(C=C1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C24H20ClN3O4S
